US06683096B2
Preparation of 2-(2-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-5-methyl-benzoic acid
This compound was prepared following the procedure described in Example 152 (parts D and E) starting with 0.85 g (3.1 mmol) of 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-indole, 0.97 g (4.0 mmol) of 2-(2-chloroethoxy)-5-methyl-benzoic acid methyl ester, 0.65 g (4.7 mmol) of potassium carbonate and 0.38 g (2.3 mmol) of potassium iodide. After the saponication and purification through silica gel 0.52 g (36%) of the corresponding carboxylic acid were obtained.

reactant | 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-indole | 3.1 mmol, 0.85 g | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H24N2O
reactant | 2-(2-chloroethoxy)-5-methyl-benzoic acid methyl ester | 4.0 mmol, 0.97 g | COC(C1=C(C=CC(=C1)C)OCCCl)=O | C11H13ClO3
reactant | potassium carbonate | 4.7 mmol, 0.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.3 mmol, 0.38 g | [I-].[K+]
product | 2-(2-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-5-methyl-benzoic acid | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=C(C=C1)C | C27H34N2O4
